US09278944B2
To a solution of 1-(1H-indazol-3-yl)ethanone (5.0 g) and triethylamine (6.53 mL) in chloroform (80 mL) was added dropwise a solution of methyl chlorocarbonate (3.24 g) in chloroform (20 mL) under ice-cooling over 1 hour, and the mixture was stirred at room temperature for 14 hours. The reaction solution was washed with aqueous saturated sodium chloride solution, dried over magnesium sulfate, and then concentrated tinder reduced pressure. The resulting residue was triturated with n-hexane to give methyl 3-acetyl-1H-indazole-1-carboxylate) [REx(101-1)] (6.67 g) as a colorless powder.

reactant | 1-(1H-indazol-3-yl)ethanone | 5.0 g | N1N=C(C2=CC=CC=C12)C(C)=O | C9H8N2O
reactant | triethylamine | 6.53 mL | C(C)N(CC)CC | C6H15N
reactant | methyl chlorocarbonate | 3.24 g | C(OC)(=O)Cl | C2H3ClO2
solvent | chloroform | 80 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | methyl 3-acetyl-1H-indazole-1-carboxylate | C(C)(=O)C1=NN(C2=CC=CC=C12)C(=O)OC | C11H10N2O3
